US05650411
A mixture of 1-(4-methoxyphenyl)piperazine dihyclrochloride (0.050 mol), 1-chloro-4-nitrobenzene (0.050 mol) and potassium carbonate (10.0 g) in N,N-dimethylform-amide (100 ml) was stirred and refluxed overnight. The reaction mixture was diluted with water and extracted twice with trichloromethane. The organic layers were combined, dried (MgSO4), filtered and evaporated in vacuum. The residue was successively triturated in 4-methyl-2-pentanone and recrystallized from 1,4-dioxane. The product was filtered off and dried, yielding 10.5 g (67%) of 1-(4-methoxyphenyl)-4-(4-nitrophenyl)-piperazine; mp. 195.1° C. (interm. 1).

reactant | 1-(4-methoxyphenyl)piperazine | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | 1-chloro-4-nitrobenzene | 0.050 mol | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylform-amide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-methoxyphenyl)-4-(4-nitrophenyl)-piperazine | 10.5 g, 67% | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O3
